* /home/elavarasanp002/esim-workspace/universal_trig_flipflop/universal_trig_flipflop.cir

.include D.lib
* u6  pos_edg pos adc_bridge_1
* u8  neg_edge neg adc_bridge_1
c2  integrat pulse_in 1u
c1  net-_c1-pad1_ pulse_in 1u
r1  integrat gnd 1k
r2  net-_c1-pad1_ gnd 1k
d1 integrat pos_edg 1N4148
d2 neg_edge net-_c1-pad1_ 1N4148
r3  pos_edg gnd 1k
r4  neg_edge gnd 1k
* u7  pulse_in net-_u4-pad1_ adc_bridge_1
* u1  integrat plot_v1
* u2  pos_edg plot_v1
* u5  neg_edge plot_v1
* u12  q plot_v1
* u3  pulse_in plot_v1
v1  pulse_in gnd pulse(0 5 0 0 0 2m 4m)
* u10  s0 s1 net-_u10-pad3_ net-_u10-pad4_ adc_bridge_2
v2  s0 gnd pulse(0 5 0 0 0 40m 40m)
v3  s1 gnd pulse(0 0 0 0 0 40m 40m)
v4  din gnd pulse(0 5 0.3m 0 0 1m 2m)
v5  rst gnd pulse(5 0 3m 0 0 40m 40m)
* u13  gnd net-_u13-pad2_ adc_bridge_1
* u14  din rst net-_u14-pad3_ net-_u14-pad4_ adc_bridge_2
* u11  net-_u11-pad1_ net-_u11-pad2_ q q_bar dac_bridge_2
* u16  q_bar plot_v1
* u4  net-_u4-pad1_ pos neg net-_u13-pad2_ net-_u10-pad3_ net-_u10-pad4_ mclk elavarasanp002_4x1_mux
* u9  net-_u14-pad3_ mclk net-_u14-pad4_ net-_u11-pad1_ net-_u11-pad2_ elavarasanp002_dff
a1 [pos_edg ] [pos ] u6
a2 [neg_edge ] [neg ] u8
a3 [pulse_in ] [net-_u4-pad1_ ] u7
a4 [s0 s1 ] [net-_u10-pad3_ net-_u10-pad4_ ] u10
a5 [gnd ] [net-_u13-pad2_ ] u13
a6 [din rst ] [net-_u14-pad3_ net-_u14-pad4_ ] u14
a7 [net-_u11-pad1_ net-_u11-pad2_ ] [q q_bar ] u11
a8 [net-_u4-pad1_ ] [pos ] [neg ] [net-_u13-pad2_ ] [net-_u10-pad3_ ] [net-_u10-pad4_ ] [mclk ] u4
a9 [net-_u14-pad3_ ] [mclk ] [net-_u14-pad4_ ] [net-_u11-pad1_ ] [net-_u11-pad2_ ] u9
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u6 adc_bridge(in_low=0.5 in_high=0.5 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u8 adc_bridge(in_low=-0.5 in_high=-0.5 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u7 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u10 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u13 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u14 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_2, NgSpice Name: dac_bridge
.model u11 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             elavarasanp002_4x1_mux, NgSpice Name: elavarasanp002_4x1_mux
.model u4 elavarasanp002_4x1_mux(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             elavarasanp002_dff, NgSpice Name: elavarasanp002_dff
.model u9 elavarasanp002_dff(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
.tran 0.01e-03 40e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(integrat)
plot v(pos_edg)
plot v(neg_edge)
plot v(q)
plot v(pulse_in)
plot v(q_bar)
.endc
.end
